US07678795B2
(1SR,8RS)-5-(5-Fluoro-2-trifluoromethyl-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene
yellow gum. MS (EI): 308.0 (M+). Prepared from bicyclo[2.2.1]heptane-2,3-dione, [2-(5-Fluoro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester, hydrazine monohydrate.

reactant | bicyclo[2.2.1]heptane-2,3-dione | C12C(C(C(CC1)C2)=O)=O | C7H8O2
reactant | [2-(5-Fluoro-2-trifluoromethyl-phenyl)-2-oxo-ethyl]-phosphonic acid dimethyl ester | COP(OC)(=O)CC(=O)C1=C(C=CC(=C1)F)C(F)(F)F | C11H11F4O4P
reactant | hydrazine monohydrate | O.NN
product | (1SR,8RS)-5-(5-Fluoro-2-trifluoromethyl-phenyl)-3,4-diaza-tricyclo[6.2.1.02,7]undeca-2,4,6-triene | FC=1C=CC(=C(C1)C1=NN=C2C3CCC(C2=C1)C3)C(F)(F)F | C16H12F4N2
